US05644006
50 g of isophthalic acid is refluxed at 165° C. (329° F.) for 18 hr in 150 mL of 2-amino-1-propanol. The bulk of the excess amino alcohol is then distilled off and the remaining viscous liquid dissolved in 200 mL of 2% NaOH. The resulting bis-N-(1-methyl-2-hydroxyethyl)isophthalamide is then precipitated in acetone, filtered and dried. To 10 g of the aforementioned diamide is slowly added 300 mL of thionyl chloride with stirring. The mixture is then heated to reflux (79° C., 174° F.) for approximately 1 hour, after which time the homogenous yellow solution is cooled and poured into diethylether to precipitate the 4,4'-dimethyl-2,2'-(1,3-phenylene)bis(oxazoline) hydrochloride salt. The salt is neutralized using 20% NaOH and the free base extracted into ether. The organic phase is then dried and evaporated to give 4,4'-dimethyl-2,2'-(1,3-phenylene)bis(oxazoline).

reactant | isophthalic acid | 50 g | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | 2-amino-1-propanol | 150 mL | NC(CO)C | C3H9NO
product | 4,4'-dimethyl-2,2'-(1,3-phenylene)bis(oxazoline) | CC1N=C(OC1)C1=CC(=CC=C1)C=1OCC(N1)C | C14H16N2O2
